US05298586
1,2,4,5-tetramethylimidazole was treated with 3 to 4 molar equivalents of methyl iodide in dichloromethane solvent and refluxed for three hours. The solvent was then removed by vacuum to yield 1,2,3,4,5-pentamethylimidazolium iodide which was used in the

reactant | 1,2,4,5-tetramethylimidazole | CN1C(=NC(=C1C)C)C | C7H12N2
reactant | methyl iodide | CI | CH3I
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,2,3,4,5-pentamethylimidazolium iodide | [I-].C[N+]1=C(N(C(=C1C)C)C)C | InChI=1S/C8H15N2.HI/c1-6-7(2)10(5)8(3)9(6)4;/h1-5H3;1H/q+1;/p-1
